US07312343B2
(1S,2S)-(1-Hydroxymethyl-2-methyl-butyl)-methyl-carbamic Acid tert-butyl Ester
39.3 g Boc-MeIle-OH (0.160 mol; Synthetech) were dissolved in 160 ml THF and cooled to 0° C. 240 ml 1M BH3-THF (0.24 mol; Fluka) were added at 0° C. over 1 h and the clear, colorless reaction mixture was warmed up and stirred at RT for 1 h. The reaction mixture was again cooled to 0° C., 100 ml deionized water were carefully added at 0-5° C. over 0.5 h and after warming up to RT stirring was continued for 1 h. To the colorless solution were added 250 ml 10% Na2CO3 all at once and after stirring for 1 h the reaction mixture was extracted with 1000 ml and 500 ml ethyl acetate. The organic layers were washed with brine and dried (Na2SO4). Removal of the solvent by rotary evaporation gave 36.9 g (99.7%) product as colorless oil.

reactant | Boc-MeIle-OH | 0.160 mol, 39.3 g | C(=O)(OC(C)(C)C)N([C@@H]([C@@H](C)CC)C(=O)O)C | C12H23NO4
reactant | BH3-THF | 0.24 mol, 1M, 240 ml | B.C1CCOC1
reactant | water | O | H2O
reactant | Na2CO3 | 250 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 160 ml | C1CCOC1 | C4H8O
product | (1S,2S)-(1-Hydroxymethyl-2-methyl-butyl)-methyl-carbamic Acid tert-butyl Ester | 36.9 g, 99.7% | C(C)(C)(C)OC(N(C)[C@@H]([C@H](CC)C)CO)=O | C12H25NO3
